US04071627
A mixture of 5.0 g 1-(ethoxycarbonylmethylthio)-2-methyl-2-(methylsulfonyl)propionaldoxime and 150 ml. of ammonium hydroxide was charged into a pyrex pressure bottle and stirred at room temperature for forty hours. The mixture was stripped of excess ammonia and water under reduced pressure. The solid crystalline residue was washed with water, then dried at room temperature to yield 3 g of 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one, m.p. 234° C. The nmr spectrum was identical with those of the compounds from Examples II and III.

reactant | 1-(ethoxycarbonylmethylthio)-2-methyl-2-(methylsulfonyl)propionaldoxime | 5.0 g | C(C)OC(=O)CSC(C(C)(S(=O)(=O)C)C)=NO | C9H17NO5S2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one | 3 g | N(O)=C1SCC(NC1(C)C)=O | C6H10N2O2S
